US03953467
A mixture consisting of 6.7 g of 1-(p-chlorobenzyl)-3-ethoxycarbonyl-5-n-butoxypyrazole, 30 ml of a 28% aqueous ammonia solution and 30 ml of methanol was placed in an autoclave and heated at a temperature of 60°C for 2 hours. After completion of the reaction, the solvent was removed by distillation and the residue was recrystallized from methanol-petroleum ether to give 5.3 g (86.2% yield) of 1-(p-chlorobenzyl)-3-carbamoyl-5-n-butoxypyrazole as colorless needles having a melting point of 137° - 138°C.

reactant | 1-(p-chlorobenzyl)-3-ethoxycarbonyl-5-n-butoxypyrazole | 6.7 g | ClC1=CC=C(CN2N=C(C=C2OCCCC)C(=O)OCC)C=C1 | C17H21ClN2O3
reactant | ammonia | N | H3N
solvent | methanol | 30 ml | CO | CH4O
product | 1-(p-chlorobenzyl)-3-carbamoyl-5-n-butoxypyrazole | 5.3 g, 86.2% yield | ClC1=CC=C(CN2N=C(C=C2OCCCC)C(N)=O)C=C1 | C15H18ClN3O2
